### PR TITLE
[Merged by Bors] - feat(Analysis/Distribution): `cos` and `sin` have temperate growth

### PR DESCRIPTION
**Pull request by mcdoll**
Also adds missing lemmas about the real and imaginary part (for both `Complex` and `RCLike`).

The theorems `Complex.hasTemperateGrowth_ofReal` and its `RCLike` cousin were in the `Function` namespace, which is accident, I moved everything so that it is no longer in that namespace.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 1]
```diff
@@ -311,6 +313,42 @@ variable (𝕜) in
 theorem RCLike.hasTemperateGrowth_ofReal [RCLike 𝕜] : (RCLike.ofReal (K := 𝕜)).HasTemperateGrowth :=
   (RCLike.ofRealCLM (K := 𝕜)).hasTemperateGrowth
 
+/-- The function `x ↦ e ^ {i x}` has temperate growth. -/
```
Comment (CoolRmal) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]: Since it is within `` maybe it is better to use lean expressions?

```suggestion
/-- The function `x ↦ exp (I * x)` has temperate growth. -/
```

**Review by CoolRmal — COMMENTED** [review]
I guess the following approach also works? And this method does not need any extra imports.
```
@[fun_prop]
theorem Real.hasTemperateGrowth_sin :
    Real.sin.HasTemperateGrowth := by
  refine ⟨Real.contDiff_sin, fun n ↦ ⟨0, 1, fun x ↦ ?_⟩⟩
  simpa [norm_iteratedFDeriv_eq_norm_iteratedDeriv] using Real.abs_iteratedDeriv_sin_le_one n x

@[fun_prop]
theorem Real.hasTemperateGrowth_cos :
    Real.cos.HasTemperateGrowth := by
  refine ⟨Real.contDiff_cos, fun n ↦ ⟨0, 1, fun x ↦ ?_⟩⟩
  simpa [norm_iteratedFDeriv_eq_norm_iteratedDeriv] using Real.abs_iteratedDeriv_cos_le_one n x

@[fun_prop]
theorem Complex.hasTemperateGrowth_exp_I_mul :
    (fun x : ℝ ↦ Complex.exp (x * Complex.I)).HasTemperateGrowth := by
  simp only [Complex.exp_ofReal_mul_I]
  fun_prop
```

**Comment by mcdoll** [comment]
Thanks, that is way better. I didn't think of this probably because the exponential is usually way better to handle than the sine and cosine

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 2]
```diff
@@ -412,6 +403,72 @@ theorem hasTemperateGrowth_one_add_norm_sq_rpow (r : ℝ) :
...
+theorem Complex.hasTemperateGrowth_re : Complex.re.HasTemperateGrowth :=
+  Complex.reCLM.hasTemperateGrowth
+
+@[fun_prop]
+theorem Complex.hasTemperateGrowth_im : Complex.im.HasTemperateGrowth :=
+  Complex.imCLM.hasTemperateGrowth
+
+/-- The function `x ↦ exp (x * I)` has temperate growth. -/
+@[fun_prop]
+theorem Complex.hasTemperateGrowth_exp_I_mul :
```
Comment (CoolRmal) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
theorem Complex.hasTemperateGrowth_exp_mul_I :
```

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 3]
```diff
@@ -412,6 +403,72 @@ theorem hasTemperateGrowth_one_add_norm_sq_rpow (r : ℝ) :
...
+  refine ⟨Real.contDiff_cos, fun n ↦ ⟨0, 1, fun x ↦ ?_⟩⟩
+  simpa [norm_iteratedFDeriv_eq_norm_iteratedDeriv] using Real.abs_iteratedDeriv_cos_le_one n x
+
+end Real
+
+section Complex
+
+@[fun_prop]
+theorem Complex.hasTemperateGrowth_ofReal : Complex.ofReal.HasTemperateGrowth :=
+  (Complex.ofRealCLM).hasTemperateGrowth
```
Comment (CoolRmal) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
  Complex.ofRealCLM.hasTemperateGrowth
```

**Review by CoolRmal — COMMENTED** [review]
maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
